US04248966
Isopenicillin N
Five μmoles of adenosine triphosphate (ATP), 10 μmoles of phosphoenol pyruvate, and 100 μgrams of pyruvate kinase were incubated for three hours at 25° C. at a pH of 7.2 with 100 μg of "LLD" and 1.0 ml of mutant M-0198 extract produced in accordance with the procedure set forth above. The reaction mixture showed the presence of antibiotic activity equivalent to 2.3 μg/ml using the β-lactam antibiotic, cephalosporin C, as standard i.e. 2.3 units/ml. One unit of antibiotic activity is that which produces the same size inhibitory zone as does 1 μg of cephalosporin C.

reactant | adenosine triphosphate | Five μmoles | P(O)(=O)(OP(=O)(O)OP(=O)(O)O)OC[C@@H]1[C@H]([C@H]([C@@H](O1)N1C=NC=2C(N)=NC=NC12)O)O | C10H16N5O13P3
reactant | phosphoenol pyruvate | 10 μmoles | C=C(C(=O)O)OP(=O)(O)O | C3H5O6P
reactant | pyruvate | 100 μgrams | C(C(=O)C)(=O)[O-]
reactant | cephalosporin C | CC(=O)OCC1=C(N2[C@@H]([C@@H](C2=O)NC(=O)CCC[C@H](C(=O)O)N)SC1)C(=O)O | C16H21N3O8S
reactant | cephalosporin C | 1 μg | CC(=O)OCC1=C(N2[C@@H]([C@@H](C2=O)NC(=O)CCC[C@H](C(=O)O)N)SC1)C(=O)O | C16H21N3O8S
product | Isopenicillin N | CC1([C@@H](N2[C@H](S1)[C@@H](C2=O)NC(=O)CCC[C@@H](C(=O)O)N)C(=O)O)C | C14H21N3O6S
